US08378110B1
Myosmine (32 g, 0.219 mol) was dissolved in 150 ml of methanol and hydrogenated at atmospheric pressure with 1.3 g of 10% palladium on carbon as catalyst. After 5 hours the mixture was filtered and the filtrate was concentrated to get a brown solid (32 g, 94.9% purity by GC). It was further purified by vacuum distillation at 0.1 mm Hg to get pure nornicotine (27.46 g, 84.7% yield, 97.5% purity by GC). 1H NMR (CDCl3): δ 1.66-2.72 (2H, m), 3.0 (2H, m), 4.13 (1H, t), 7.24 (1H, m), 7.69 (1H, dt), 8.46 (1H, dd), and 8.59 (1H, d). 13C-NMR (CDCl3): δ 148.4, 148.1, 140.16, 134.1, 123.3, 60.0, 46.8, 34.2, and 25.4. IR: 3291, 2960, 1641, 1578 Cm−1.

reactant | Myosmine | 0.219 mol, 32 g | C1=CC(=CN=C1)C2=NCCC2 | C9H10N2
solvent | methanol | 150 ml | CO | CH4O
catalyst | palladium on carbon | 1.3 g | [Pd] | Pd
product | nornicotine | 27.46 g, 84.7% yield | C1=CC(=CN=C1)C2CCCN2 | C9H12N2
